US07569592B2
2,5-Dibromopyridine (2.0 g, 8.4 mmol) was dissolved in 1,4-dioxane (2 mL) and a solution of hydrazine hydrate (500 mg, 8.4 mmol) in 1,4-dioxane (15 mL) was added dropwise by syringe pump. The reaction was heated to 80° C. for 16 h. The solvents were removed in vaccuo and the residue was chromatographed on silica gel eluting with hexanes:EtOAc (1:1) to afford 2-bromo-6-hydrazinopyridine as a brown solid. MS (ESI) 187.0 (M++H), 189.0 (M+H+2).

reactant | 2,5-Dibromopyridine | 8.4 mmol, 2.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | hydrazine hydrate | 8.4 mmol, 500 mg | O.NN
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-6-hydrazinopyridine | BrC1=NC(=CC=C1)NN | C5H6BrN3
